US07288656B2
1.1. (Z)-1-Azabicyclo[2.2.2]oct-2-yl(phenyl)methanone O-benzyloxime hydrochloride
There are obtained 0.5 g of a fraction corresponding to (E)-1-azabicyclo[2.2.2.]oct-2-yl(phenyl)methanone O-benzyloxime and 2.25 g of another fraction corresponding to (Z)-1-azabicyclo[2.2.2.]oct-2-yl(phenyl)methanone O-benzyloxime hydrochloride

reactant | oct-2-yl(phenyl)methanone O-benzyloxime | C(C1=CC=CC=C1)ON=C(C1=CC=CC=C1)C(C)CCCCCC | C22H29NO
reactant | oct-2-yl(phenyl)methanone O-benzyloxime hydrochloride | Cl.C(C1=CC=CC=C1)ON=C(C1=CC=CC=C1)C(C)CCCCCC
product | (Z)-1-Azabicyclo[2.2.2]oct-2-yl(phenyl)methanone O-benzyloxime hydrochloride | Cl.C(C1=CC=CC=C1)O\N=C(\C1=CC=CC=C1)/C1N2CCC(C1)CC2 | InChI=1S/C21H24N2O.ClH/c1-3-7-18(8-4-1)16-24-22-21(19-9-5-2-6-10-19)20-15-17-11-13-23(20)14-12-17;/h1-10,17,20H,11-16H2;1H/b22-21-;
